*****************************************************************
* NXP PSMN4R8-100BSE
*
* Polarity N-Channel
* Ratings 100V/4.800000E-003OHMS/120A
*
* Date Created Mon Dec 10 07:18:19 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN4R8-100BSE DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507775381211
LS SOURCE 8 6.10252567492954e-09
RLS2 SOURCE 8 15.3373198629614
RLS1 8 7 0.000559902377978473

RDS 7 4 10000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.002000334762202153 TC=0.0153148261023354,6.69100078230601E-06
RBD 9 4 0.000412521174351019 TC=0.0133148261023354,6.69100078230601E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 8.95911222340689e-09
RG 1 2 0.849920585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	10281.9
+ -1	8495.28
+ -0.5	7363.03
+ -0.2	6542.57
+ -0.1	6518.44
+ 0	5483.3652
+ 0.1	4202.5592
+ 0.2	4197.3284
+ 0.5	3347.902
+ 1	2744.32
+ 2	2049.5372
+ 3	1686.6036
+ 4	1472.3852
+ 5	1323.4564
+ 6	1212.5644
+ 8	1057.13536
+ 10	954.8652
+ 12	877.87824
+ 15	792.26088
+ 20	693.80672
+ 30	577.31592
+ 50	458.65096



.MODEL MINT NMOS(Vto=3.65 Kp=1.036046e+002 Nfs=740000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=115 Ibv=2.500000E-004 Rs=1E-6 Is=5.16733765101701e-12
+ N=1 M=0.66 VJ=0.5 Fc=0.5 Cjo=3.6200132e-09 Tt=7.2e-08)

.ENDS

