*****************************************************************
* NXP PSMN1R8_30PL
*
* Polarity N-Channel
* Ratings 30V/1.80E-03OHMS/25A
*
* Date Created Sun Oct 24 02:30:43 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R8_30PL DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.09181183111696e-09
RLS2 SOURCE 8 5.25729210441498
RLS1 8 7 0.000741811831116957

RDS 7 4 7500000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.000478600971574514 TC=0.0129542503698823,5.28449743577022e-05
RBD 9 4 0.000112447343739277 TC=0.0129542503698823,5.28449743577022e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.01204242424242e-08
RG 1 2 0.997840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	10310
+ -8	10296
+ -6	10271
+ -4	10210
+ -2	8311
+ 0	3516.5
+ 0.1	2619
+ 0.2	2611
+ 0.5	2573
+ 1	2229
+ 2	1501
+ 5	1121
+ 10	945
+ 12	909
+ 15	872
+ 20	830
+ 25	798
+ 30	774



.MODEL MINT NMOS(Vto=2.25454082960618 Kp=6.1128e+02 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=1000)

.MODEL DBD D(Bv=30.00 Ibv=2.50E-04 Rs=1E-6 Is=7.44287058652314e-12
+ N=1 M=0.51 VJ=0.99 Fc=0.5 Cjo=4.753e-09 Tt=6.426e-08)

.ENDS