*****************************************************************
* NXP PSMN1R9-40PL
*
* Polarity N-Channel
* Ratings 40V/1.700000E-003OHMS/150A
*
* Date Created Mon Feb 04 03:46:40 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R9-40PL DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00027
LG GATE 1 3.28162421113569e-09
RLG GATE 1 8.24762121083703
LS SOURCE 8 3.63696258277933e-09
RLS2 SOURCE 8 9.1406839451524
RLS1 8 7 0.0003

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.000626217635791751 TC=0.0157772086847618,-2.41244875234102E-05
RBD 9 4 0.000158887730435725 TC=0.0157772086847618,-2.41244875234102E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 1.0529e-08
RG 1 2 0.741162342928517

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	8004
+ -1	7431
+ -0.5	5766
+ -0.2	4632
+ -0.1	4307
+ 0	3976
+ 0.1	3540
+ 0.2	3144
+ 0.5	2207
+ 1	1693
+ 2	1388
+ 3	1227
+ 4	1125
+ 5	1054
+ 6	998
+ 8	924
+ 10	876
+ 12	841
+ 15	802
+ 20	751
+ 25	728.64
+ 30	687.186666666667



.MODEL MINT NMOS(Vto=2.31678798741852 Kp=1.037991e+003 Nfs=470000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=4.92912335447872e-12
+ N=1 M=0.59 VJ=0.52 Fc=0.5 Cjo=6.027e-09 Tt=4.64694e-08)

.ENDS

