*****************************************************************
* NXP PSMN2R1-40PL
*
* Polarity N-Channel
* Ratings 40V/2.200000E-003OHMS/150A
*
* Date Created Mon Feb 04 03:13:20 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN2R1-40PL DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00027
LG GATE 1 3.28162421113569e-09
RLG GATE 1 8.24762121083703
LS SOURCE 8 3.63696258277933e-09
RLS2 SOURCE 8 9.1406839451524
RLS1 8 7 0.0003

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.000953687253475305 TC=0.00901245103169391,2.3351721068532E-05
RBD 9 4 0.000300676499011422 TC=0.00901245103169391,2.3351721068532E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 9.279e-09
RG 1 2 0.810642342928517

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	5500
+ -1	5083
+ -0.5	4273
+ -0.2	3333
+ -0.1	3088
+ 0	2862.5
+ 0.1	2559
+ 0.2	2289
+ 0.5	1720
+ 1	1394
+ 2	1164
+ 3	1030
+ 4	939
+ 5	873
+ 6	821
+ 8	754
+ 10	712
+ 12	683
+ 15	652
+ 20	613
+ 30	559



.MODEL MINT NMOS(Vto=2.10569973528544 Kp=7.157401e+002 Nfs=300000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=4.66542312261181e-12
+ N=1 M=0.58 VJ=0.56 Fc=0.5 Cjo=5.283e-09 Tt=4.490928e-08)

.ENDS

