*****************************************************************
* NXP PSMN2R5-60PL
*
* Polarity N-Channel
* Ratings 60V/2.600000E-003OHMS/150A
*
* Date Created Thu Jan 31 09:00:17 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN2R5-60PL DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00027
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 2.14737784296411e-09
RLS2 SOURCE 8 5.39694916475004
RLS1 8 7 0.000194987797247309

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00130447119362434 TC=0.00947013100956149,1.64802111507054E-05
RBD 9 4 0.00084048669532578 TC=0.00947013100956149,1.64802111507054E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 9.36397683265138e-09
RG 1 2 0.777273761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2    8210
+ -1	7474
+ -0.5	5675
+ -0.2	3983
+ -0.1	3317
+ 0	2955
+ 0.1	2399
+ 0.2	2002
+ 0.5	1584
+ 1	1300
+ 2	978
+ 3	841
+ 4	783
+ 5	751
+ 6	730
+ 8	702
+ 10	682
+ 12	665
+ 15	642
+ 20	608
+ 48	500

.MODEL MINT NMOS(Vto=2.28399726403981 Kp=1.012786e+003 Nfs=450000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=67 Ibv=2.500000E-004 Rs=1E-6 Is=20.48366425121683e-12
+ N=1 M=0.66 VJ=0.6 Fc=0.5 Cjo=5.196e-09 Tt=2.7e-08)
.ENDS

