*****************************************************************
* NXP PSMN2R7_30PL
*
* Polarity N-Channel
* Ratings 30V/2.70E-03OHMS/25AA
*
* Date Created Sun Oct 24 02:40:48 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN2R7_30PL DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.06748169587096e-09
RLS2 SOURCE 8 5.196143856745
RLS1 8 7 0.000717481695870964

RDS 7 4 15000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00122629225836651 TC=0.00729033394436965,3.07089529816453e-05
RBD 9 4 0.000406004787769135 TC=0.00729033394436965,3.07089529816453e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 4.15138202247191e-09
RG 1 2 0.997840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	3920
+ -8	3915
+ -6	3903
+ -4	3877
+ -2	2884
+ 0	1167
+ 0.1	870
+ 0.2	868
+ 0.5	859
+ 1	798
+ 2	573
+ 5	437
+ 10	369
+ 12	356
+ 15	343
+ 20	329
+ 25	317
+ 30	310



.MODEL MINT NMOS(Vto=2.13972972034013 Kp=3.2940e+02 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=1000)

.MODEL DBD D(Bv=30.00 Ibv=2.50E-04 Rs=1E-6 Is=3.78269729633336e-12
+ N=1 M=0.46 VJ=0.99 Fc=0.5 Cjo=1.839e-09 Tt=4.012e-08)

.ENDS