*****************************************************************
* NXP PSMN3R3-60PL
*
* Polarity N-Channel
* Ratings 60V/3.400000E-003OHMS/130A
*
* Date Created Mon Feb 04 02:34:05 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN3R3-60PL DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00027
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 2.14737784296411e-09
RLS2 SOURCE 8 5.39694916475004
RLS1 8 7 0.000194987797247309

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00200498326908453 TC=0.00843329514472904,1.45646487833952E-05
RBD 9 4 0.000462375014623606 TC=0.00843329514472904,1.45646487833952E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 8.00731473522314e-09
RG 1 2 0.724313761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	8048.96
+ -1	6553.605
+ -0.5	4615.255
+ -0.2	3206.535
+ -0.1	3167.08
+ 0	2104.5882
+ 0.1	1444.0992
+ 0.2	1442.3228
+ 0.5	1206.758
+ 1	1006.16256
+ 2	752.54124
+ 3	648.34536
+ 4	600.93724
+ 5	573.21956
+ 6	554.6728
+ 8	529.64384
+ 10	511.56876
+ 12	496.50604
+ 15	476.89328
+ 16	470.60132
+ 20	449.13592
+ 25	426.85788
+ 30	409.542
+ 50	371.60828



.MODEL MINT NMOS(Vto=2.14613621608367 Kp=9.0754857e+002 Nfs=315000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=4.88128754454652e-12
+ N=1 M=0.59 VJ=0.52 Fc=0.5 Cjo=3.8657848e-09 Tt=4.318128e-08)

.ENDS

