*****************************************************************
* NXP PSMN3R4_30PL
*
* Polarity N-Channel
* Ratings 30V/3.40E-03OHMS/10A
*
* Date Created Sun Oct 24 02:53:30 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN3R4_30PL DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.13771774667544e-09
RLS2 SOURCE 8 5.37266615662248
RLS1 8 7 0.000787717746675436

RDS 7 4 6000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0019379083424452 TC=0.00627957650517792,2.4835503177417e-05
RBD 9 4 0.000768198617492774 TC=0.00627957650517792,2.4835503177417e-05
DBD 7 9 DBD
 
M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 3.97729963898917e-09
RG 1 2 0.997840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	3861
+ -8	3855
+ -6	3850
+ -4	3825
+ -2	3325
+ 0	1407
+ 0.1	1269
+ 0.2	1144
+ 0.5	888
+ 1	697
+ 2	564
+ 5	438
+ 10	367
+ 12	356
+ 15	344
+ 20	330
+ 25	319
+ 30	311



.MODEL MINT NMOS(Vto=2.14849070023357 Kp=4.1633e+02 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=500)

.MODEL DBD D(Bv=30.00 Ibv=2.50E-04 Rs=1E-6 Is=2.87564706101086e-12
+ N=1 M=0.57 VJ=0.56 Fc=0.5 Cjo=2.812e-09 Tt=3.688e-08)

.ENDS