*****************************************************************
* NXP PSMN4R2-60PL
*
* Polarity N-Channel
* Ratings 60V/3.900000E-003OHMS/100A
*
* Date Created Mon Feb 04 01:51:42 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN4R2-60PL DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00027
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 2.14737784296411e-09
RLS2 SOURCE 8 5.39694916475004
RLS1 8 7 0.000194987797247309

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00245535193812477 TC=0.00750699270089735,2.80688434097312E-05
RBD 9 4 0.000887048632963174 TC=0.00750699270089735,2.80688434097312E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 6.84622692808213e-09
RG 1 2 0.774313761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	6547.03
+ -1	4893
+ -0.5	3318.2
+ -0.2	2237.5
+ -0.1	2211.45
+ 0	1669.6414
+ 0.1	1248.1764
+ 0.2	1246.6388
+ 0.5	1043.594
+ 1	863.22776
+ 2	634.39356
+ 3	543.44024
+ 4	503.58068
+ 5	480.4762
+ 6	465.07684
+ 8	444.2988
+ 10	429.26016
+ 12	416.6904
+ 15	400.11956
+ 16	394.76552
+ 20	376.29656
+ 25	356.89524
+ 30	341.6508
+ 50	307.9474



.MODEL MINT NMOS(Vto=2.08567136136615 Kp=6.983477e+002 Nfs=290000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=4.59455068456458e-12
+ N=1 M=0.6 VJ=0.56 Fc=0.5 Cjo=3.3404144e-09 Tt=3.988536e-08)

.ENDS

