*****************************************************************
* NXP PSMN2R6-60PS
*
* Polarity N-Channel
* Ratings 60V/2.600000E-003OHMS/150A
*
* Date Created Thu Jan 31 06:42:48 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN2R6-60PS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00027
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 2.14737784296411e-09
RLS2 SOURCE 8 5.39694916475004
RLS1 8 7 0.000194987797247309

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00097957737745484 TC=0.00994259070741996,1.78134784662272E-05
RBD 9 4 0.000277793966013752 TC=0.00994259070741996,1.78134784662272E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 6.64636999728375e-09
RG 1 2 0.765713761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -1	4861.01
+ -0.5	3962.58
+ -0.2	3313.84
+ -0.1	3295.36
+ 0	2731.2222
+ 0.1	2007.486
+ 0.2	2004.9012
+ 0.5	1670.282
+ 1	1424.468
+ 2	1137.3988
+ 3	997.90112
+ 4	917.93592
+ 5	865.6648
+ 6	828.6162
+ 8	777.00208
+ 10	739.76504
+ 12	709.6786
+ 15	672.80604
+ 16	661.52892
+ 20	625.37708
+ 25	590.79084
+ 30	565.6132
+ 50	515.98416



.MODEL MINT NMOS(Vto=3.7986522456503 Kp=3.192359e+002 Nfs=780000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=3.50954008375024e-12
+ N=1 M=0.63 VJ=0.5 Fc=0.5 Cjo=4.1116896e-09 Tt=4.419732e-08)

.ENDS

