*****************************************************************
* NXP PSMN2R8_40PS
*
* Polarity N-Channel
* Ratings 40V/2.80E-03OHMS/10A
*
* Date Created Sun Oct 17 03:43:16 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
* 
*****************************************************************

.SUBCKT PSMN2R8_40PS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.09181183111696e-09
RLS2 SOURCE 8 5.25729210441498
RLS1 8 7 0.000741811831116957

RDS 7 4 4000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00133340910670314 TC=0.00712483111296753,2.94214123032896e-05
RBD 9 4 0.00037817625729583 TC=0.00712483111296753,2.94214123032896e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 4.11847008547009e-09
RG 1 2 0.697840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	4005
+ -8	4005
+ -6	3981
+ -4	3526
+ -2	2858
+ 0	0
+ 0.1	1223
+ 0.2	1221
+ 0.5	1209
+ 1	1125
+ 2	861
+ 5	650
+ 10	542
+ 20	467



.MODEL MINT NMOS(Vto=4.2526910732577 Kp=4.6765e+02 Nfs=10 Eta=10
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=2000)

.MODEL DBD D(Bv=40.00 Ibv=2.50E-04 Rs=1E-6 Is=2.33073558919534e-12
+ N=1 M=0.61 VJ=0.99 Fc=0.5 Cjo=3.15447e-09 Tt=4.739e-08)

.ENDS